US08193192B2
A mixture of commercial 2-chloro-3-methyl-5-nitro-pyridine (0.5 g, 2.88 mmol), 4-hydroxy-benzoic acid methyl ester (0.45 g, 2.96 mmol) and K2CO3 (0.398 g, 2.90 mmol) in anhydrous acetone (20 ml) was refluxed for 15 h. After cooling to room temperature, the precipitate was filtered and washed with acetone (2×10 ml). The filtrates were concentrated at reduced pressure and the residue was purified by column chromatography (eluting with DCM/hexane 5:1 then DCM) to provide methyl 4-(3-methyl-5-nitropyridin-2-yloxy)benzoate (0.788 g, 95% yield).

reactant | 2-chloro-3-methyl-5-nitro-pyridine | 2.88 mmol, 0.5 g | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
reactant | 4-hydroxy-benzoic acid methyl ester | 2.96 mmol, 0.45 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | K2CO3 | 2.90 mmol, 0.398 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | methyl 4-(3-methyl-5-nitropyridin-2-yloxy)benzoate | 0.788 g, 95% yield | CC=1C(=NC=C(C1)[N+](=O)[O-])OC1=CC=C(C(=O)OC)C=C1 | C14H12N2O5
